US06350755B1
Step F: Preparation of 3-(3-Methoxy-benzenesulfonylamino)-propionic acid ethyl ester
To a solution of 3-methoxybenzenesulfonyl chloride (3.53 g, 12.1 mmol) and triethylamine (3.45 g, 17.1 mmol) in acetone at 0° C. was added β-alanine ethyl ester hydrochloride (2.00 g, 17.1 mmol) under a nitrogen atmosphere. After 4 days, the reaction was concentrated in vacuo. The residue was partitioned between 0.1 N HCl solution and EtOAc, the organic layer separated, washed with brine, dried (Na2SO4), and concentrated in vacuo to provide the crude product which was used without further purification.

reactant | 3-methoxybenzenesulfonyl chloride | 12.1 mmol, 3.53 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | 17.1 mmol, 3.45 g | C(C)N(CC)CC | C6H15N
reactant | β-alanine ethyl ester hydrochloride | 17.1 mmol, 2.00 g | Cl.C(C)OC(CCN)=O
solvent | acetone | CC(=O)C | C3H6O
product | 3-(3-Methoxy-benzenesulfonylamino)-propionic acid ethyl ester | C(C)OC(CCNS(=O)(=O)C1=CC(=CC=C1)OC)=O | C12H17NO5S
